US07230031B2
To a solution of 1-[6-benzyloxy-2-hydroxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone (1.50 g) in n-propanol (15 mL) was added ethyl carbazate (432 mg). The mixture was stirred under an argon atmosphere at 75° C. overnight and cooled to room temperature. Adding hexane (30 mL), the reaction mixture was stirred for 1 hour. The precipitate was filtrated to give ethyl N′-{1-[6-benzyloxy-2-hydroxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethylidene}hydrazinecarboxate (1.16 g).

reactant | 1-[6-benzyloxy-2-hydroxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone | 1.50 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1C(C)=O)O)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C25H23NO6
reactant | ethyl carbazate | 432 mg | C(NN)(=O)OCC | C3H8N2O2
reactant | hexane | 30 mL | CCCCCC | C6H14
solvent | n-propanol | 15 mL | C(CC)O | C3H8O
product | ethyl N′-{1-[6-benzyloxy-2-hydroxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethylidene}hydrazinecarboxate | 1.16 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1C(C)=NNC(=O)OCC)O)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C28H29N3O7
